US20010020110A1
To a solution of 2-[4-(trifluoromethyl)phenyl]benzaldehyde (1.0 g, 4.0 mmol) in monochlorobenzene (2 ml) were added ruthenium(III) chloride trihydrate (12.8 g, 0.049 mmol) and tetra-n-butylammonium bromide (60 mg, 0.186 mmol). Further, a 5% aqueous sodium hypochlorite solution (27 g, 18.1 mmol) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was acidified with 10% sulfuric acid and extracted with ethyl acetate to give a solution of 2-[4-(trifluoromethyl)phenyl]benzoic acid in ethyl acetate. The content of benzoic acid compound in this solution was 0.753 g (yield: 70.8%) as determined by LC analysis (internal standard method).

reactant | 2-[4-(trifluoromethyl)phenyl]benzaldehyde | 4.0 mmol, 1.0 g | FC(C1=CC=C(C=C1)C1=C(C=O)C=CC=C1)(F)F | C14H9F3O
reactant | sodium hypochlorite | 18.1 mmol, 27 g | Cl[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | monochlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | tetra-n-butylammonium bromide | 0.186 mmol, 60 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | ruthenium(III) chloride trihydrate | 0.049 mmol, 12.8 g | O.O.O.[Ru](Cl)(Cl)Cl
product | 2-[4-(trifluoromethyl)phenyl]benzoic acid | yield: 70.8% | FC(C1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1)(F)F | C14H9F3O2
